US08026257B2
tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(methylsulfonyloxy)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (150 mg, 0.236 mmol) and Et3N (0.099 mL, 0.709 mmol) in DCM (3 mL, 46.6 mmol) at 0 C was added Methanesulfonyl chloride (0.037 mL, 0.473 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was cooled to 0 , quenched by addition of saturated NaHCO3 and diluted with ether, the layers were separated and the ether layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by Biotage LC (30% EtOAc/Hex) to give 155 mg of title product as white foam (92% yield). LC/MS (HPLC method 3): tR=4.15 min, 712.3(MH)+.

reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.236 mmol, 150 mg | ClC1=CC2=CN(N=C2C(=C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O5Si
reactant | Et3N | 0.709 mmol, 0.099 mL | CCN(CC)CC | C6H15N
reactant | DCM | 46.6 mmol, 3 mL | C(Cl)Cl | CH2Cl2
reactant | Methanesulfonyl chloride | 0.473 mmol, 0.037 mL | CS(=O)(=O)Cl | CH3ClO2S
product | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(methylsulfonyloxy)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 155 mg, 92% yield | ClC1=CC2=CN(N=C2C(=C1)C(COS(=O)(=O)C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H47ClFN3O7SSi
